US06313340B1
Preparation of p-Vinylbenzoic Acid (VBA)
To a well-stirred solution of methyl p-vinylbenzoate (36.0 g, 0.222 mole) in THF (200 mL) was added a solution of sodium hydroxide (17.78 g, 0.444 mole) in water (200 mL) at room temperature. After stirring overnight, water (100 mL), THF (150 mL), and ethyl ether (200 mL) was added and the phases separated. The aqueous phase was acidified with a solution of concentrated hydrochloric acid (41 mL) in water (90 mL) then extracted three times with THF (500-600 mL each). The latter combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to provide 32.7 g (99.5 percent) of white solids. Proton nmr (Gemini model 300 MHz) in deuterochloroform: delta 8.08 (2H), 7.50 (2H), 6.78 (1H), 5.90 (1H), 5.41 (1H).

reactant | methyl p-vinylbenzoate | 0.222 mole, 36.0 g | C(=C)C1=CC=C(C(=O)OC)C=C1 | C10H10O2
reactant | sodium hydroxide | 0.444 mole, 17.78 g | [OH-].[Na+]
reactant | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | p-Vinylbenzoic Acid | 32.7 g, 99.5 percent | C(=C)C1=CC=C(C(=O)O)C=C1 | C9H8O2
